US05231102
3.5-Dichloraniline (10.95 g) and diethylglutaconate (13.5 g) were dissolved in dry dichloromethane and heated at reflux for 14 h. Diethyl ether, saturated with hydrogen chloride (10 ml) was added and the reaction mixture was heated at reflux for a further 24 h. After this time the solution was filtered and the filtrate was washed with saturated sodium hydrogen carbonate solution, dried (Na2SO4), filtered and concentrated in vacuo to give an oily residue which was purified by silica gel chromatography using 15% ethyl acetate in hexane as the eluent to give as a colourless solid, 5,7-dichloro-2,4-diethoxycarbonylquinoline (2.4 g, m.p. 104°-106° C.); δ (360 MHz, CDCl3), 1.44 (3H, t, J=7.2 Hz, CH3CH2), 1.49 (3H, t, J=7.2 Hz, CH3CH2), 4.51 (2H, q, J=7.2 Hz, CH3CH2), 4.56 (2H, q, J=7.2 Hz, CH3CH2), 7.77 (1H, d, J=1.9 Hz, 6-H or 8-H), 8.17 (1H, s, 3-H) and 8.32 (1H, d, J=1.9 Hz, 6-H or 8-H); m/z 342 (M+1), 269 (100%, M+1 -CO2Et); Found: C, 52.58; H, 3.87; N, 4.04. C15H13Cl2NO4 requires C, 52.65; H, 3.83; N, 4.09% and 5,7-dichloro-4-(3,5-dichloroanilino)-2,4-diethoxycarbonyl-1,2,3,4-tetrahydro-quinoline (0.23 g, m.p. 153°-154° C.; δ (360 MHz, CDCl3) 1.29 (6H, t, J=7.2 Hz, CH3CH2 ×2), 2.34 (1H, dd, J=14.4 and 2.9 Hz, CHAHB -CHC), 2.65 (1H, dd, J=14.4 and 12.3 Hz, CHAHB -CHC), 4.27 (5H, m, CH3CH2 ×2 and HC), 4.91 (1H, br, NH), 5.54 (1H, br, NH), 6.28 (2H, d, J=1.8 Hz, ortho anilino protons), 6.60 (1H, t, J=1.8 Hz, para anilino proton), 6.64 (1H, d, J=2.1 Hz, 6-H or 8-H), 6.68 (1H, d, J=2.1 Hz, 6-H or 8-H); m/z 506 and 504 (M+), 433 (100%, M-CO2Et); Found: C, 49.95; H, 4.07; N, 5.51. C21H20Cl4N2O4 requires C, 49.83; H, 3.98; N, 5.53%).

reactant | 3.5-Dichloraniline | 10.95 g | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
reactant | diethylglutaconate | 13.5 g | C(C)OC(C=CCC(=O)OCC)=O | C9H14O4
reactant | Diethyl ether | C(C)OCC | C4H10O
reactant | hydrogen chloride | 10 ml | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5,7-dichloro-2,4-diethoxycarbonylquinoline | 2.4 g | ClC1=C2C(=CC(=NC2=CC(=C1)Cl)C(=O)OCC)C(=O)OCC | C15H13Cl2NO4
